US07507740B2
(iv) Production of ethyl 4-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-6-yl)benzoate hydrochloride
A mixture of ethyl 4-(4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl)benzoate (2.97 g) and phosphoryl chloride (16.45 g) was stirred at 110° C. for 1 hr, dioxane (10 mL) was added and the mixture was heated under reflux for 4 hrs. After concentration under reduced pressure, ethanol (30 mL) was added to the residue and, after stirring at room temperature for 30 min, the precipitated solid was collected by filtration. The solid washed with ethanol and dried under reduced pressure at 60° C. to give the title compound (3.34 g).

reactant | ethyl 4-(4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl)benzoate | 2.97 g | O=C1C2=C(N=CN1)C=C(N2)C2=CC=C(C(=O)OCC)C=C2 | C15H13N3O3
reactant | phosphoryl chloride | 16.45 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | ethyl 4-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-6-yl)benzoate hydrochloride | 3.34 g | Cl.ClC=1C2=C(N=CN1)C=C(N2)C2=CC=C(C(=O)OCC)C=C2 | InChI=1S/C15H12ClN3O2.ClH/c1-2-21-15(20)10-5-3-9(4-6-10)11-7-12-13(19-11)14(16)18-8-17-12;/h3-8,19H,2H2,1H3;1H
